US04048338
20 grams of 1,2-epoxydodecene (b.p. 97°-98° C. at 3.5 mm Hg A) is heated with 9.7 grams of morpholine at 100° C. in a sealed container for 16 hours. The resulting mixture is then fractionally distilled and the product is collected at a temperature of 119° C. and a pressure of 0.05 mm Hg A. 23.4 grams of N-2-hydroxydodecyl-morpholine having an equivalent weight of 273, by titration (as compared to the calculated equivalent weight of 271 for this compound) are obtained. This product (23.4 grams) is mixed with 9.74 grams of aqueous 30% hydrogen peroxide and 50 ml of methanol and heated at 50° C. for 2 hours. Thereafter any excess peroxide is decomposed by adding 0.1 gram platinum black on charcoal (of 5% Pt content) and heating the mixture at 40° C. for 4 hours. The platinum-on-charcoal catalyst is filtered off, and the filtrate is evaporated to recover the crude product, which is then recrystallized from 300 ml of acetone to produce 17.5 grams of purified N-2-hydroxydodecyl-morpholine N-oxide having a melting point of 151°-2° C. (and having an equivalent weight by potentiometric titration in methanol, equivalence point at pH 3.25, of 290; as compared to the calculated equivalent weight of 287 for this compound).

reactant | 1,2-epoxydodecene | 20 grams | O1C=C1CCCCCCCCCC | C12H22O
reactant | morpholine | 9.7 grams | N1CCOCC1 | C4H9NO
reactant | hydrogen peroxide | OO | H2O2
catalyst | platinum black | 0.1 gram | [Pt] | Pt
solvent | methanol | 50 ml | CO | CH4O
product | N-2-hydroxydodecyl-morpholine N-oxide | 17.5 grams | OC(C[N+]1(CCOCC1)[O-])CCCCCCCCCC | C16H33NO3
